US07825155B2
cis-3-diethylaminocyclobutane Carboxylic Benzyl Ester
To a solution of 3-oxocyclobutane carboxylic benzyl ester (88.1 mg, 0.43 mmol) in dichloromethane (4.3 mL) were successively added diethylamine (0.18 mL, 1.73 mmol) and sodium triacetoxyborohydride (137.0 mg, 0.65 mmol). The mixture was stirred at room temperature for 5 hours, and then to the reaction solution was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtered, and then evaporated. The resulting residue was purified by silica gel column chromatography (chloroform/methanol 20/1 to 5/1) to give the titled compound (66.3 mg, 59%).

reactant | 3-oxocyclobutane carboxylic benzyl ester | 0.43 mmol, 88.1 mg | C(C1=CC=CC=C1)OC(=O)C1CC(C1)=O | C12H12O3
reactant | diethylamine | 1.73 mmol, 0.18 mL | C(C)NCC | C4H11N
reactant | sodium triacetoxyborohydride | 0.65 mmol, 137.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 4.3 mL | ClCCl | CH2Cl2
product | cis-3-diethylaminocyclobutane Carboxylic Benzyl Ester | 66.3 mg, 59% | C(C1=CC=CC=C1)OC(=O)[C@@H]1C[C@@H](C1)N(CC)CC | C16H23NO2
